US08071592B2
(d) 7-(Methoxy)-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one
7-(Methoxy)-1,5-naphthyridin-2(1H)-one (5.958 g, 33.852 mmol) was suspended in dry DMF (100 ml) under argon at rt, and the stirred suspension was treated with sodium hydride (2.98 g, 60% suspension in oil, 74.48 mmol) and stirred at rt for 0.5 h. Allyl iodide (6.88 ml, 74.475 mmol) was then added. The reaction was stirred at rt for 0.5 h and then the mixture was diluted with water to 300 ml and extracted with DCM (3×300 ml). The DCM extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give a brown gum which was purified by chromatography on silica gel using a 0-10% MeOH/DCM gradient to provide the desired compound (4.096 g, 56%). Mixed fractions could be triturated with diethyl ether to provide further compound (0.95 g, 13%).

reactant | 7-(Methoxy)-1,5-naphthyridin-2(1H)-one | 33.852 mmol, 5.958 g | COC1=CN=C2C=CC(NC2=C1)=O | C9H8N2O2
reactant | sodium hydride | 74.48 mmol, 2.98 g | [H-].[Na+]
reactant | Allyl iodide | 74.475 mmol, 6.88 ml | C(C=C)I | C3H5I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(Methoxy)-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one | 4.096 g, 56% | COC1=CN=C2C=CC(N(C2=C1)CC=C)=O | C12H12N2O2
